US05521311
First, the amino group of 2-fluoro-5-nitroaniline is sulfonylated by using methanesulfonyl chloride to give N-(2-fluoro-5-nitrophenyl)methanesulfonamide.

reactant | 2-fluoro-5-nitroaniline | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-(2-fluoro-5-nitrophenyl)methanesulfonamide | FC1=C(C=C(C=C1)[N+](=O)[O-])NS(=O)(=O)C | C7H7FN2O4S
